US05071999
a) Ethyl 2,3-dimethyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
17.2 g (0.1 mol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 10.5 g (0.1 mol) of N-methylalanine in 300 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 0.1 mol, 17.2 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | N-methylalanine | 0.1 mol, 10.5 g | CN[C@@H](C)C(=O)O | C4H9NO2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,3-dimethyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CN1C2CN(CC2CC1C)C(=O)OCC | C11H20N2O2
